US09303007B2
NCS (0.51 g, 3.82 mmol) was added to a solution of tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (1.0 g, 2.55 mmol) in DMF (25 mL) and the mixture was heated at 50° C. overnight. The volatiles were removed under vacuum. The residue was purified by flash column chromatography (BIOTAGE®), eluting with a gradient of 0 to 10% EtOAc/DCM to afford the partially pure (S)-tert-butyl 2-(5-(4-bromophenyl)-4-chloro-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (1.04 g) as yellow foam. LC-MS retention time 1.99 min; m/z 427.12 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% TFA and Solvent B was 10% H2O/90% MeOH/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 7.63 (s, 4H), 4.74-4.81 (m, 1H), 3.64-3.72 (m, 1H), 3.45-3.55 (m, 1H), 2.27-2.42 (m, 1H), 2.00-2.15 (m, 2H), 1.90-2.00 (m, 1H), 1.48 (m, 3H), 1.27 (m, 6H).

reactant | NCS | 3.82 mmol, 0.51 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 2.55 mmol, 1.0 g | BrC1=CC=C(C=C1)C1=CN=C(N1)C1N(CCC1)C(=O)OC(C)(C)C | C18H22BrN3O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 2-(5-(4-bromophenyl)-4-chloro-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 1.04 g | BrC1=CC=C(C=C1)C1=C(N=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)Cl | C18H21BrClN3O2
